US07989461B2
6-methyl-N1-(2-methylbenzo[d]thiazol-5-yl)isoquinoline-1,5-diamine hydrochloride (5.94 g, 16.6 mmol) and 6-(2-fluoropyridin-3-yl)-N-methylpyrimidin-4-amine (4.74 g, 23.2 mmol, 1.40 equiv.) were combined in a 350 mL screw-cap pressure tube and flushed with nitrogen. 1M LiHMDS in THF (102 mL) were added in two portions (2×51 mL) at room temperature. The pressure tube was sealed and placed immediately in a pre-heated (87° C.) sonicator bath. The reaction mixture was sonicated at 85° C. for 30 min., cooled to room temperature. The resulting thick suspension was diluted with THF (0.2 L) and quenched into a mixture of sat. aq. NH4Cl (50 mL) and brine (100 mL). The organic layer was separated and concentrated in vacuo with silica (26 g). Column chromatography (CH2Cl2:THF 3:1)—two fractions were collected, the first contained starting material (0.5 L), fraction contained the title compound (2 L). The second fraction was concentrated in vacuo to dryness. The resulting foam was suspended in Et2O (0.12 L) and sonicated until all the material was converted into a homogenous suspension of fine yellow precipitate. 6-Methyl-N5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)-N1-(2-methylbenzo[d]thiazol-5-yl)isoquinoline-1,5-diamine was isolated by filtration as a light yellow powder (2.35 g, 28% yield). MS (M+H)+ 505.

reactant | 6-methyl-N1-(2-methylbenzo[d]thiazol-5-yl)isoquinoline-1,5-diamine hydrochloride | 16.6 mmol, 5.94 g | Cl.CC1=C(C=2C=CN=C(C2C=C1)NC=1C=CC2=C(N=C(S2)C)C1)N
reactant | 6-(2-fluoropyridin-3-yl)-N-methylpyrimidin-4-amine | 23.2 mmol, 4.74 g, 1.40 equiv. | FC1=NC=CC=C1C1=CC(=NC=N1)NC | C10H9FN4
product | 6-Methyl-N5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)-N1-(2-methylbenzo[d]thiazol-5-yl)isoquinoline-1,5-diamine | CC1=C(C=2C=CN=C(C2C=C1)NC=1C=CC2=C(N=C(S2)C)C1)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C28H24N8S
